US06121285
4-(1-Ethoxycarbonylcyclopropyl)-3-fluoro-1-[1-(S)-phenylethyl]-3-pyrrolin-2-one
To a solution of (E)-ethyl 4-bromo-3-(1-ethoxycarbonylcyclopropyl)-2-fluoro-2-butenoate (143 mmol) in ethanol (1000 ml) was added sodium hydrogencarbonate (30.08 g, 358 mmol). After adding dropwise 1-(S)-phenylethylamine (20.31 ml, 158 mmol) thereinto at room temperature, the mixture was heated under reflux for 3 hours. Then the liquid reaction mixture was cooled and filtered through celite. The filtrate was concentrated under reduced pressure and the residue was subjected to flash silica gel column chromatography (eluent:n-hexane:ethyl acetate=2:1) to obtain 36.95 g (81.2%) of the-title compound as an oily substance.

reactant | (E)-ethyl 4-bromo-3-(1-ethoxycarbonylcyclopropyl)-2-fluoro-2-butenoate | 143 mmol | BrC/C(=C(\C(=O)OCC)/F)/C1(CC1)C(=O)OCC | C12H16BrFO4
reactant | sodium hydrogencarbonate | 358 mmol, 30.08 g | C(O)([O-])=O.[Na+]
reactant | 1-(S)-phenylethylamine | 158 mmol, 20.31 ml | C1(=CC=CC=C1)[C@H](C)N | C8H11N
solvent | ethanol | 1000 ml | C(C)O | C2H6O
product | 4-(1-Ethoxycarbonylcyclopropyl)-3-fluoro-1-[1-(S)-phenylethyl]-3-pyrrolin-2-one | 36.95 g, 81.2% | C(C)OC(=O)C1(CC1)C1=C(C(N(C1)[C@@H](C)C1=CC=CC=C1)=O)F | C18H20FNO3
